US08957205B2
1-[(2-Benzothienylcarbonyl)amino]cyclohexanecarboxylic acid phenylmethyl ester
Under ice-cooling, 5.9 g (31 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added to a solution of 5 g (28 mmol) of 2-benzothiophenecarboxylic acid, 6.5 g (28 mmol) of 1-aminocyclohexanecarboxylic acid phenylmethyl ester and 4.5 g (29 mmol) of 1-hydroxybenzotriazole in methylenechloride. After the mixture was stirred at room temperature overnight, the reaction solvent was distilled off under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate twice. The obtained organic layer was washed with a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution, and then saturated brine, followed by drying with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and diethyl ether was added to the obtained residue, followed by stirring of the mixture overnight. The crystal was collected by filtration and was heated and dried under reduced pressure to obtain 10 g (91%) of the title compound.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 31 mmol, 5.9 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-benzothiophenecarboxylic acid | 28 mmol, 5 g | S1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O2S
reactant | 1-aminocyclohexanecarboxylic acid phenylmethyl ester | 28 mmol, 6.5 g | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)N | C14H19NO2
reactant | 1-hydroxybenzotriazole | 29 mmol, 4.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 1-[(2-Benzothienylcarbonyl)amino]cyclohexanecarboxylic acid phenylmethyl ester | 10 g, 91% | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)C=1SC2=C(C1)C=CC=C2 | C23H23NO3S
